US05153352
Step A: Dimethyl 3-bromocyclobutane-1,2-dicarboxylate
A solution of 5 g (51 mmol) of maleic anhydride and 0.5 mL (4 mmol) of acetophenone in 50 mL of ethyl acetate was added to a 100 mL pyrex photochemical reaction vessel. The vessel was sealed and purged with nitrogen for 10 min then cooled with tap water while 13.8 g (129 mmol) of vinyl bromide was being added to the ethyl acetate solution. The vessel was then irradiated for 20 h with a 450 Watt medium pressure mercury vapor lamp. The solution was concentrated in vacuo and the residue dissolved in 200 mL of methanol which had been treated with 1 mL of trimethylsilyl chloride. The solution was stirred at ambient temperature overnight and then concentrated to a brown viscous oil. The oil was chromatographed on silica gel (200 g) eluted with 20% ethyl acetate in hexane to give a yellow oil. The oil was purified by short-path distillation using a 1" fractionating column to give 2.5 g (19.5% yield) of the title compound; b.p. 75°-80° C. (0.1 mm Hg); EI-MS, m/e (rel intensity): 220 (M+ -CH3O, 60), 218 (60), 192 (42), 190 (39), 171 (100); 1H NMR (CDCl3) δ 2.60 (m, 1H), 2.82 (m, 1H), 3.56 (td, 1H), 3.72 (m, 6H), 3.94 (t, 0.4H), 4.12 (q, 0.6H), 4.93 (q, 1H).

reactant | maleic anhydride | 51 mmol, 5 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetophenone | 4 mmol, 0.5 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | water | O | H2O
reactant | vinyl bromide | 129 mmol, 13.8 g | C(=C)Br | C2H3Br
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Dimethyl 3-bromocyclobutane-1,2-dicarboxylate | 2.5 g, 19.5% yield | BrC1C(C(C1)C(=O)OC)C(=O)OC | C8H11BrO4
